US09162992B2
To a solution of O-benzyl-N-vinyl-hydroxylamine (LXVI, 6.52 g, 43.70 mmol) in AcOH (10 mL), NaCNBH3 (11.00 g, 175.05 mmol) was added in portions. The reaction mixture was stirred at room temperature for 1 h. The mixture was neutralized (pH 7) with 1N NaOH and extracted with EtOAc (3×75 mL). The combined organic extracts were washed with saturated NaHCO3 solution (2×100 mL), dried over Na2SO4, and purified by flash column chromatography (eluent: petroleum ether/EtOAc (9:1) to petroleum ether/EtOAc (1:4)) to yield O-benzyl-N-ethyl-hydroxylamine (LXVII, 2.10 g, 32%). 400 MHz 1H NMR (DMSO-d6, ppm) 7.36-7.24 (5H, m), 6.50 (1H, t, J=6.4 Hz), 4.60 (2H, s), 2.81 (2H, qd, J=7.0, 6.4 Hz), 0.98 (3H, t, J=7.0 Hz).

reactant | O-benzyl-N-vinyl-hydroxylamine | 43.70 mmol, 6.52 g | C(C1=CC=CC=C1)ONC=C | C9H11NO
reactant | NaCNBH3 | 175.05 mmol, 11.00 g | [BH3-]C#N.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | O-benzyl-N-ethyl-hydroxylamine | 2.10 g, 32% | C(C1=CC=CC=C1)ONCC | C9H13NO
